US07932282B2
(4S)-2-Oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid (10.25 g, 38.8 mmol) was dissolved in anhydrous methanol (100 ml) and cooled to 0° C. under argon. Thionyl chloride (4.25 ml, 58.2 mmol) was then added dropwise to the mixture and then the mixture was allowed to warm to room temperature and stirred overnight. The mixture was reduced in vacuo and the residue was partitioned between dichloromethane (300 ml) and saturated aqueous sodium hydrogen carbonate (100 ml). The aqueous layer was separated and extracted with dichloromethane (300 ml). The organic layers were then combined, passed through a hydrophobic frit and reduced in vacuo to give 5-methyl 1-(phenylmethyl)2-oxo-1,5-imidazolidinedicarboxylate (10.67 g) as a white solid. (ii) 5-Methyl 1-(phenylmethyl)2-oxo-1,5-imidazolidinedicarboxylate (10.67 g, 38 mmol) and potassium carbonate (10.6 g, 76 mmol) were suspended in dimethoxyethane (150 ml) and treated with methyl iodide (9.46 ml, 152 mmol). The reaction mixture was heated to reflux and stirred under argon for 18 hrs. The mixture was then cooled and evaporated in vacuo and the resulting residue was partitioned between ethyl acetate (750 ml) and brine (200 ml). The organic layer was separated, passed through a hydrophobic frit and reduced in vacuo. The resulting residue was purified by automated flash silica gel column chromatography (Biotage SP4), eluting with a 20-60% gradient of ethyl acetate in hexane, to give 5-methyl 1-(phenylmethyl)3-methyl-2-oxo-1,5-imidazolidinedicarboxylate (5.77 g) as an orange oil. (iii) A suspension of 5-Methyl 1-(phenylmethyl)3-methyl-2-oxo-1,5-imidazolidinedicarboxylate (5.77 g) and 5% palladium on carbon (5 g) in ethyl acetate (300 ml) was placed under a hydrogen atmosphere and stirred for 24 hrs. The mixture was then filtered and reduced in vacuo to yield methyl 1-methyl 1-2-oxo-4-imidazolidinecarboxylate (2.76 g) as a white solid which was used without further purification. (iv) A solution of methyl 1-methyl-2-oxo-4-imidazolidinecarboxylate (1.76 g, 11.1 mmol) in anhydrous dimethylformamide (20 ml) was cooled to −10° C. under argon and treated with methyl iodide (2.76 ml, 44.4 mmol). Sodium hydride (60% in oil, 0.422 g, 10.5 mmol) was then added in portions over a period of 20 minutes. The mixture was allowed to warm to room temperature (in the cooling bath) and stirred for 18 hrs. The reaction mixture was then reduced in vacuo and the residue partitioned between ethyl acetate (150 ml) and brine (50 ml). The aqueous layer (containing a fine suspension) was separated and extracted with more ethyl acetate (100 ml). The organic extracts were then combined, passed through a hydrophobic frit, and reduced in vacuo to give an orange oil. This material was purified by flash silica gel column chromatography, eluting with 50% ethyl acetate in hexane and then with a gradient of 50-100% in hexane, to give methyl 1,3-dimethyl-2-oxo-4-imidazolidinecarboxylate (1.123 g) as a colourless oil which was used without further purification. (v) Methyl 1,3-dimethyl-2-oxo-4-imidazolidinecarboxylate (1.12 g) was dissolved in 10 ml of a 3:2 mixture of tetrahydrofuran and water respectively, then cooled to 0° C. and treated with lithium hydroxide (0.156 g). The reaction was stirred between 0-5° C. for 4 hrs, then acidified with 2N aqueous hydrogen chloride (4 ml) and reduced in vacuo. The residue was dissolved in methanol and loaded onto 2×10 g NH2 solid-phase extraction (SPE) cartridges and eluted with methanol (2 column volumes) and then with a 10% mixture of 2N aqueous hydrogen chloride in methanol (2 column volumes). The latter fractions were combined and evaporated to give crude 1,3-dimethyl-2-oxo-4-imidazolidinecarboxylic acid (0.098 g) as a colourless gum which was used without any additional purification.

reactant | methyl 1-methyl-2-oxo-4-imidazolidinecarboxylate | 11.1 mmol, 1.76 g | CN1C(NC(C1)C(=O)OC)=O | C6H10N2O3
reactant | methyl iodide | 44.4 mmol, 2.76 ml | CI | CH3I
reactant | Sodium hydride | 10.5 mmol, 0.422 g | [H-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl 1,3-dimethyl-2-oxo-4-imidazolidinecarboxylate | 1.123 g | CN1C(N(C(C1)C(=O)OC)C)=O | C7H12N2O3
